US07585885B2
5-Difluoromethoxy-isophthalic acid monomethyl ester
Treat a solution of 5-difluoromethoxy-isophthalic acid dimethyl ester (2.7 g, 10.4 mmol) in methanol (35 mL) with 2 N NaOH (5.2 mL, 10.4 mmol) at room temperature for 12 h. Acidify to about pH=3 using 5 N HCl. Extract with ethyl acetate, wash the organic layer with water, saturated aqueous sodium chloride, dry (sodium sulfate) and concentrate to give the crude title product which is used in the next step without further purification.

reactant | 5-difluoromethoxy-isophthalic acid dimethyl ester | 10.4 mmol, 2.7 g | COC(C1=CC(C(=O)OC)=CC(=C1)OC(F)F)=O | C11H10F2O5
reactant | NaOH | 10.4 mmol, 2 N, 5.2 mL | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
solvent | methanol | 35 mL | CO | CH4O
product | 5-Difluoromethoxy-isophthalic acid monomethyl ester | COC(C1=CC(C(=O)O)=CC(=C1)OC(F)F)=O | C10H8F2O5
